US09375000B2
N-({2-Methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-pyridin-3-yl}-methyl)propanamide (0.15 g) and manganese dioxide (1.2 g) were added to dichloromethane (20 ml), and acetic acid (2 ml) was added thereto in small portions at room temperature. The reaction mixture was stirred for 100 hours at room temperature, and filtered by suction on Celite. The filtrate was distilled off under reduced pressure and the residue was purified by silica gel column chromatography to obtain N-({6-[2-hydroxy-3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-methylpyridin-3-yl}methyl)propanamide (0.06 g).

reactant | N-({2-Methyl-6-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-pyridin-3-yl}-methyl)propanamide | 0.15 g | CC1=NC(=CC=C1CNC(CC)=O)N1CC(CC1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H21Cl3F3N3O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | manganese dioxide | 1.2 g | [O-2].[O-2].[Mn+4]
product | N-({6-[2-hydroxy-3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]-2-methylpyridin-3-yl}methyl)propanamide | 0.06 g | OC1N(CCC1(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)C1=CC=C(C(=N1)C)CNC(CC)=O | C21H21Cl3F3N3O2
